Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Every time I am awake I want to go back to
sleep because that is the only time the pain is gone. "
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
SOURCES OF INFORMATION: History obtained from patient, ED staff,
collateral, and prior notes in the medical record.

HISTORY OF PRESENT ILLNESS: ___ is a ___ y/o female with a
history of depression and anxiety who was brought in by 
ambulance
from her dorm after an intentional ingestion of pills and
alcohol.  Psychiatry is consulted for evaluation and assistance
with management and disposition.

Pt reports "I have been having a really tough time. Every time I
am awake I want to go back to sleep because that is the only 
time
the pain is gone." 

She notes that she has struggled with depression and anxiety for
the past ___ years.  She reports multiple stressors recently
including starting ___ and breaking up with her
boyfriend of many years. They broke up at the beginning of the
school year.  She says that since that time she has been feeling
increasingly worse. Has suicidal thoughts and feels she just
wants to keep sleeping to take away the pain.  She has been 
using
her trazodone multiple times per night for the past 2 weeks in
the context of him finding another girlfriend. She will wake up,
feel anxious about her ex and then take another trazodone. 

___ also reports that she recently researched online taking
trazodone and alcohol for the added effect of sleeping. She
reports she is not sure she wanted to die or just wanted to 
sleep
for a very long time. She has been having suicidal thoughts for
the past ___ years that have increased in frequency, she states
she never really had a plan but reports that at times she wishes
her life would be over.  Denies any current suicidal thoughts 
and
states that she feels regret for putting her family through 
this.

She also reports that she feels anxiety being with her parents
and at their house. Stating that every time she is away from
school she feels increased anxiety as she is further away from
her ex. He attends the same school.  

COLLATERAL:
Pt's parents interviewed separately. They report that her recent
depression and ingestion is secondary to the break up with her
boyfriend, with whom she still has daily contact.  They have
known her to be depressed and had almost been hospitalized a
couple months prior with a similar episode.  They requested to
bring her to ___ with them to then help her continue in
school while under their care until she can transfer. It was
explained that while that might be a necessary step in the
future, at this time her ingestion was significant enough that
she warrants stabilization.  

Psych ROS:
- Depressive Symptoms: Reports depressed mood, suicidal ideation
without plan, reports disturbed sleep when not trazodone,
hopelessness, decreased energy, poor appetite, weight loss (lost
8lbs in past month); still able to attend class, hangs out with
friend 
- ___ 
- Manic Symptoms: Denies 
- Anxiety: Reports panic attacks last was ___, worrying more
than ___ hours/day.
- PTSD: Reports a remote history avoidance, hypervigilance due 
to
a past relationship.
- Trauma: Denies history of emotional, physical
- Disordered eating: Denies restricting, purging. Denies 
laxative
or diuretic use to lose weight.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
- Diagnoses: Depression and anxiety 
- Hospitalizations: in ___
- Current treaters and treatment:
--- ___, psychiatrist
--- Therapist ___, at ___ in ___ - talked last ___
--- Therapist at ___ 
- Medication and ECT trials: 
- Self-injury: SIB a year ago cutting; denies previous attempts
- Harm to others: denies 
- Access to weapons: denies 

PAST MEDICAL HISTORY:
Concussion in High school
benign arachnoid cyst on brainstem - followed by neurology 

 
Social History:
SOCIAL HISTORY:
- Born/raised, childhood: ___; 2 sisters 1 brother;
close to sisters
- Education: Currently a freshman at ___, studying ___ 
- Employment/Source of income: family
- Housing: lives in a dorm 
- Family/Support: Family and friends are supportive 
- Trauma/Abuse: reports emotionally /physically abusive
relationship in high school 
- Religion: ___, goes to daily mass 
- Access to weapons: denies 

SUBSTANCE ABUSE HISTORY:
- EtOH: once a week usually, 2 mixed drinks 
- Tobacco: denies 
- Marijuana: denies 
- Opiates, including heroin: denies, denies IVDU
- Benzodiazepines: denies
- Cocaine/Crack: denies
- Amphetamines: denies
- LSD/PCP/Ecstasy/Mushrooms: denies

FORENSIC HISTORY:
- Arrests: denies
- Convictions and jail terms: denies
- Current status (pending charges, probation, parole): NA

 
Family History:
FAMILY PSYCHIATRIC HISTORY:
- Completed or attempted suicide: denies
- Substance use or dependence: mother previously ETOH
- ___ Illness: maternal grandfather with depression and a
psychiatric hospitalization 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
VS:  T 98.4, BP 118/75, HR 80, RR 16
Gen: NAD, normal posture, well-nourished, thin female, appears
stated age, well-groomed
HEENT: Sclera anicteric. Oropharynx benign. Mucous membranes
moist. 
Neck: Supple. No LAD. No masses or goiter. Trachea midline.
CV: Regular rate, positive S1, S2, no gross 
murmurs/rubs/gallops.

Chest: Clear to ausculation bilaterally
Abdomen: Soft, non-tender, non-distended. Positive BS.
Ext: Warm and well-perfused, no edema. 
Skin: No scars, no tattoos. Some bruises on legs. No evidence of
cutting/self-harm

Neurologic:
Cranial nerves ___ grossly intact and symmetrical. 
Motor:  Normal bulk and tone. Moves all extremities
symmetrically, strength appears full.
Abnormal movements: No tics, tremors, or evidence of EPS. 
Sensory: Grossly intact.
Gait: Posture, stride, and arm-swing normal. No truncal ataxia.

Mental Status Exam:
Appearance: Well-groomed female, appears stated age, in hospital
gown
Behavior: No abnormal movements, good eye contact
Attitude: Cooperative and engaged in conversation
Mood: "fine"
Affect: congruent, nonlabile but does become teary when
discussing ex-boyfriend
Speech: Normal rate, rhythm, volume, and prosody
Thought process : Linear and goal directed.  No loosening of
associations, no tangentiality. Does not appear to be responding
to internal stimuli.
Thought Content : Denies any HI or Suicidal intent. No AVH. No
overt paranoia or delusions. No obsessions, compulsions,
preoccupations.
Impulse control: questionable
Insight: poor
Judgement: poor

===============================================================
DISCHARGE MENTAL STATUS EXAMINATION: 

Appearance: Well-groomed thin female with long blond hair, 
appears stated age, in hospital gown
Behavior: mild psychomotor agitation, figets frequently. Good 
eye contact. Frequently keeps arms crossed over her middle. 
Attitude: Cooperative and engaged in conversation, 
confrontational, defensive. 
Mood: "I need to get out of here; I'm going crazy"
Affect: congruent, tearful for much of interview, particularly 
when ex-boyfriend is mentioned. When told that she is not being 
discharged today, she becomes quite agitated, sobbing, yelling: 
"I can't stay here another minute" "I'm not crazy like these 
people; I don't belong here". 
Speech: Normal rate, rhythm, volume, and prosody
Thought process : Linear and goal directed.  No loosening of
associations, no tangentiality. Does not appear to be responding
to internal stimuli.
Thought Content : Denies any HI or Suicidal intent. No AVH. No
overt paranoia or delusions. No obsessions, compulsions, 
preoccupations.
Impulse control: questionable
Insight: poor
Judgement: poor
 
Pertinent Results:
___ 12:30AM BLOOD WBC-5.7 RBC-4.48 Hgb-12.4 Hct-40.4 MCV-90 
MCH-27.7 MCHC-30.7* RDW-12.2 RDWSD-39.8 Plt ___
___ 12:30AM BLOOD Neuts-50.7 ___ Monos-13.8* 
Eos-3.1 Baso-0.9 Im ___ AbsNeut-2.91 AbsLymp-1.79 
AbsMono-0.79 AbsEos-0.18 AbsBaso-0.05
___ 12:30AM BLOOD ___ PTT-26.0 ___
___ 12:30AM BLOOD Glucose-88 UreaN-6 Creat-0.6 Na-136 K-3.6 
Cl-100 HCO3-23 AnGap-17
___ 12:30AM BLOOD ALT-8 AST-18 AlkPhos-49 TotBili-0.6
___ 12:30AM BLOOD Albumin-4.4 Calcium-9.1 Phos-2.9 Mg-2.1
___ 12:30AM BLOOD TSH-3.0
___ 12:30AM BLOOD Free T4-1.5
___ 12:30AM BLOOD ASA-NEG Ethanol-62* Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:45AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 12:45AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 12:45AM URINE UCG-NEGATIVE
 
Brief Hospital Course:
Ms. ___ has had a very difficult time adjusting to the unit. 
She attended electronics group and closing meeting. She appeared 
to sleep well overnight. As the melatonin she requested is 
nonformulary, she was prescribed prn ramelteon, the melatonin 
receptor agonist.  She is isolative in the milieu, frequently 
tearful. 

On interview morning of ___, Ms. ___ adamantly states that 
she would like to be
discharged. She states repeatedly: "I don't belong here; I'm not 
crazy; I'm not mentally ill like these people" "I can't stay 
here another minute". She states that the intentional overdose 
was not a suicide attempt, but an attempt to sleep. When asked 
about the research she did online prior to this, and whether or 
not it
discussed that taking these doses was likely to result in death, 
she stated that she read that there were infrequent fatalities, 
and that the result would be 'instant blackout'. The idea of 
partial hospitalization was discussed, but Ms. ___ refused 
this idea. 

Collateral obtained from outpatent psychiatrist, ___ 
at ___: ___ expressed great concern 
about Ms. ___ safety, and strongly recommended against 
discharge at this time due to concern for risk of repeat suicide 
attempt. ___ was in agreement with stopping Ativan and 
trazodone. She also stated that she had prescribed only approx. 
10 pills of 0.5 mg Ativan with each prescription, and so was 
concerned that ___ must have been hoarding the Ativan for quite 
a time to come up with the estimated 26 tablets of 0.5 mg Ativan 
which she took. ___ had also had an appointment with ___ on 
the day before the intentional overdose, and stated that at that 
time ___ reported continued passive suicidality (which had been 
present since breakup with boyfriend approx. 1 mo ago) but 
denied active SI and denied plan. 

Collateral obtained from ___ was 
concerning for unclear academic status, multiple concerns about 
roommates having to keep a calendar to make sure that one of 
them was always assigned to check on ___, make sure she was 
okay and make sure she ate and was going to class each day. Of 
note, ___
was discovered unconscious by her roommates and was also 
discovered with a suicide note, which included statements 
apologizing to her family and stating that she would no longer 
be suffering. 

Family Meeting occurred ___ at 1300. Members present 
initially were Dr. ___, psychiatry attending; 
___, resident; ___, social work; ___ 
___, patient's mother as well as patient's older sister. ___ joined the meeting after initial discussion between the 
medical tem and her family members.  The ___ family voiced 
concern that ___ mood and anxiety were
getting worse while on the unit, and expressed strong desire 
that she be discharged immediately. Mom, ___, stated 
that, while ___ had been sad for ___ weeks after the breakup, 
that she had "pulled herself up by her bootstraps" and "was 
scoring 100s in all of her classes" though she had needed to 
drop one course. She expressed fear that ___ would 'hang 
herself' if she stayed on the unit. Regarding the suicide note, 
Mrs. ___ stated that she had read it and it wasn't concerning 
to her, as it was written only "if I die", and she then states 
that this is evidence that ___ was not suicidal and that she is 
safe for discharge. Mrs. ___ stated goal was for ___ to 
return home to her parents' house where her mother would 'watch 
her' and would drive her to school each day. 

The medical team expressed our significant concern about her 
high risk of repeat suicide attempt at this time, and our 
concern about the severity of the state of her mental health. We 
discussed her multiple protective risk factors, including her 
intelligence, her social supports, her family supports, her 
established relationships with outpatient psychiatrist and 
therapist, and her faith. 
We discussed the above collateral information and how ___ had 
been struggling to maintain ADLs at school and required 
significant care in order to accomplish them. We also discussed 
the severity of her suicide attempt and the fact that she may 
have died with these doses of multiple sedating medications 
combined with alcohol. ___ and ___ mother both demonstrate very 
limited insight into the severity of her current psychiatric 
situation. 

In consultation with outpatient treatment team, plan was made 
against patient and family desires to continue admission for 
medication optimization and establishment of a safe discharge 
plan. Patient and family requested lateral transfer to outside 
psychiatric hospital, and multiple referrals were made. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 20 mg PO DAILY depression 
2. TraZODone 50 mg PO QHS:PRN sleep 
3. LORazepam 0.5 mg PO DAILY PRN anxiety 

 
Discharge Medications:
1.  Ramelteon 8 mg PO QHS:PRN sleep  
2.  Escitalopram Oxalate 20 mg PO DAILY depression  
3.  ___ FE ___ (28) (norethindrone-e.estradiol-iron) 1 mg-20 
mcg (21)/75 mg (7) oral daily  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
Major depressive disorder
Intentional overdose 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted after intentionally taking an overdose of 
Ativan, trazodone and Lexapro along with alcohol. This was very 
concerning, and you may have passed away with the doses that you 
took. We were greatly concerned about your safety. We wanted to 
titrate your medications to help your mood and help reduce your 
suicidality. Per your request, we are transferring you to 
another inpatient psychiatric unit. 
 
Followup Instructions:
___